US06936602B1
In THF (15.0 ml) was dissolved methyl 7-(4-propoxyphenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate (431 mg). To the solution was added pyridine (1.0 ml) and then was added a solution of methanesulfonic anhydride (1.11 g) in THF (5.0 ml), at room temperature, and the mixture was stirred at 50° C. for 15 hours. The mixture was diluted with ethyl acetate, and washed with water, 1N hydrochloric acid, water and saturated brine, and the organic layer was dried with anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give crystals, which were washed with ethyl acetate to give methyl 1-methylsulfonyl-7-(4-propoxyphenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate (238 mg) as white crystals. The mother liquor was concentrated, and the residue was purified with silica gel column chromatography (15 g, hexane:ethyl acetate=2:1) to give desired product. The obtained methyl 1-methylsulfonyl-7-(4-propoxyphenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate was collected and dissolved in a mixture of THF and ethanol (1:1, v/v, 40 ml). To the solution was added 1N sodium hydroxide solution (14.0 ml), and the mixture was stirred at room temperature for 18 hours. The mixture was a little concentrated, and to the residue was added 1N hydrochloric acid to convert weakly acidic solution. The mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated brine, and dried with anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give crystals, which were washed with ethyl acetate/hexane to give 1-methylsulfonyl-7-(4-propoxyphenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid (273 mg, 53%) as white crystals.

reactant | methyl 7-(4-propoxyphenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 431 mg | C(CC)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2)C(=O)OC)C1 | C21H23NO3
reactant | pyridine | 1.0 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonic anhydride | 1.11 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | THF | 15.0 ml | C1CCOC1 | C4H8O
solvent | THF | 5.0 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 1-methylsulfonyl-7-(4-propoxyphenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 238 mg | CS(=O)(=O)N1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCC)C(=O)OC | C22H25NO5S
